US04558063
A mixture of 2-(4-amino-2,6-dichlorophenylimino)imidazolidine (3.7 g, 0.015M) and 1-acetyl-2-imidazolidone (2.2 g, 0.02M) in phosphoryl chloride (25 ml) was heated under reflux for 3 days. After cooling to room temperature the phosphoryl chloride was evaporated to give an oily residue. The residue was basified with sodium hydroxide (50%) and the insoluble solid was filtered off. This solid was hydrolysed with dilute sodium hydroxide in methanol. After evaporation of the mixture the product was extracted into methylene chloride. Evaporation of the extract gave 2-[2,6-dichloro-4-(2-imidazolidinylimino)phenylimino]imidazolidine.

reactant | 2-(4-amino-2,6-dichlorophenylimino)imidazolidine | 0.015M, 3.7 g | NC1=CC(=C(C(=C1)Cl)N=C1NCCN1)Cl | C9H10Cl2N4
reactant | 1-acetyl-2-imidazolidone | 0.02M, 2.2 g | C(C)(=O)N1C(NCC1)=O | C5H8N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | phosphoryl chloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-[2,6-dichloro-4-(2-imidazolidinylimino)phenylimino]imidazolidine | ClC1=C(C(=CC(C1)=NC1NCCN1)Cl)N=C1NCCN1 | C12H16Cl2N6
